US09062070B2
A solution of 1-(3-bromo-4-fluorophenyl)ethanone (81.3 g, 0.344 mol) in 300 mL of DMF was added CuCN (67.4 g, 0.749 mol) and the mixture was heated to reflux and stirred under N2 for 10 h. The reaction mixture was quenched with water and extracted with ether. The organic layer was washed with brine dried over Na2SO4 and concentrated in vacuum. The residue was purified with silica gel column chromatography to give the product 5-acetyl-2-fluorobenzonitrile.

reactant | 1-(3-bromo-4-fluorophenyl)ethanone | 0.344 mol, 81.3 g | BrC=1C=C(C=CC1F)C(C)=O | C8H6BrFO
reactant | CuCN | 0.749 mol, 67.4 g | C(#N)[Cu]
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 5-acetyl-2-fluorobenzonitrile | C(C)(=O)C=1C=CC(=C(C#N)C1)F | C9H6FNO
